US04153699
Methyl iodide (40 cc) is added to a solution of (RS)-9,9a-dihydrothiazolo[3,4-a]indole-3-thione (30.0 g) in methylene chloride (150 cc). After stirring for 20 hours at about 20° C., the resulting crystals are filtered off, washed with diethyl ether (2×50 cc) and then dried at 20° C. under reduced pressure (20 mm Hg). (RS)-3-Methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide (50.2 g), melting at 135°-140° C. with decomposition, is thus obtained.

reactant | Methyl iodide | 40 cc | CI | CH3I
reactant | (RS)-9,9a-dihydrothiazolo[3,4-a]indole-3-thione | 30.0 g | C1SC(N2C1CC=1C=CC=CC21)=S | C10H9NS2
solvent | methylene chloride | 150 cc | C(Cl)Cl | CH2Cl2
product | (RS)-3-Methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide | 50.2 g | [I-].CSC=1SCC2[N+]1C=1C=CC=CC1C2 | InChI=1S/C11H12NS2.HI/c1-13-11-12-9(7-14-11)6-8-4-2-3-5-10(8)12;/h2-5,9H,6-7H2,1H3;1H/q+1;/p-1
